US07858724B2
2-bromo-9,9-diheptylfluorene (mp: 32° C.) is synthesized in this manner, for example, from 2-bromofluorene and heptylbromide in the presence of potassium-tert.-butyl oxide.

reactant | 2-bromofluorene | BrC1=CC=2CC3=CC=CC=C3C2C=C1 | C13H9Br
reactant | heptylbromide | C(CCCCCC)Br | C7H15Br
reactant | potassium tert.-butyl oxide | [K].C(C)(C)(C)OC(C)(C)C
product | 2-bromo-9,9-diheptylfluorene | BrC1=CC=2C(C3=CC=CC=C3C2C=C1)(CCCCCCC)CCCCCCC | C27H37Br
